US09422232B2
N-(4-hydroxybutyl)trifluoroacetamide (1.65 g; 8.9 mmol) was dissolved in anhydrous DCM (9 mL) and cooled to 0° C. A solution of Dess-Martin periodinane (15% in DCM; 30 mL; 14.0 mmol) was added to the cooled solution and stirred first at 0° C. for 10 min and then at room temperature for 2.5 h. The reaction was quenched with 1:1 10% sodium thiosulfate and saturated NaHCO3 and the biphasic mixture vigorously stirred for 30 min. The layers were separated and the aqueous layer extracted with DCM. The combined organic layers were dried over MgSO4, filtrated and evaporated. The residue was purified by column chromatography (Hex:EtOAc 2:1+1% MeOH) providing N-(4-oxobutyl)trifluoroacetamide in a yield of 1.15 mg (71%).

reactant | N-(4-hydroxybutyl)trifluoroacetamide | 8.9 mmol, 1.65 g | OCCCCNC(C(F)(F)F)=O | C6H10F3NO2
reactant | Dess-Martin periodinane | 14.0 mmol, 30 mL | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 9 mL | C(Cl)Cl | CH2Cl2
product | N-(4-oxobutyl)trifluoroacetamide | O=CCCCNC(C(F)(F)F)=O | C6H8F3NO2
